US04670441
1.2 1,3-Dimethyl-5-[4-chloro- 2-(2,6-dichlorophenoxy)phenylcarbamoyl]-2-thiobarbituric acid
2.5 g (10 mmol) of 1,3-dimethyl-5-ethoxycarbonyl-2-thiobarbituric acid, 2.9 g (10 mmol) of 4-chloro-2-(2,6-dichlorophenoxy)aniline, 40 ml of ethanol and 3 ml of dimethylformamide are mixed and then boiled under reflux with stirring for 6 hours. The reaction mixture is then cooled and the resultant crystalline precipitate is isolated by filtration. If necessary, the crystalline precipitate can be recrystallised from a mixture of dioxane and ethanol. Melting point 254°-257° C.

reactant | 1,3-dimethyl-5-ethoxycarbonyl-2-thiobarbituric acid | 10 mmol, 2.5 g | CN1C(=S)N(C(=O)C(C1=O)C(=O)OCC)C | C9H12N2O4S
reactant | 4-chloro-2-(2,6-dichlorophenoxy)aniline | 10 mmol, 2.9 g | ClC1=CC(=C(N)C=C1)OC1=C(C=CC=C1Cl)Cl | C12H8Cl3NO
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1,3-Dimethyl-5-[4-chloro- 2-(2,6-dichlorophenoxy)phenylcarbamoyl]-2-thiobarbituric acid | CN1C(=S)N(C(=O)C(C1=O)C(NC1=C(C=C(C=C1)Cl)OC1=C(C=CC=C1Cl)Cl)=O)C | C19H14Cl3N3O4S
